US07427390B2
265 mg (1 mmol) of 4-amino-N-(2-diethylamino-ethyl)-2-methoxy-benzamide is introduced into 15 ml of methylene chloride and mixed in succession with 111 mg (1.1 mmol) of triethylamine and 126 mg (1.1 mmol) of methanesulfonic acid chloride. It is stirred for 2 hours at room temperature and then allowed to stand overnight. It is then mixed with 25 ml of saturated sodium bicarbonate solution and shaken out three times with 25 ml each of methylene chloride. The collected organic phase is dried, filtered and concentrated by evaporation. The residue is chromatographed on 10 g of basic silica gel (Isolute flash Si NH2) with a gradient from cyclohexane:ethyl acetate=100:0 to 50:50. 232 mg (52.6% of theory) of N-(2-diethylamino-ethyl)-4-(bismethanesulfonylamino)-2-methoxy-benzamide with a melting point of 144.1° C. is obtained.

reactant | 4-amino-N-(2-diethylamino-ethyl)-2-methoxy-benzamide | 1 mmol, 265 mg | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1)OC | C14H23N3O2
reactant | triethylamine | 1.1 mmol, 111 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic acid chloride | 1.1 mmol, 126 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | 25 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | N-(2-diethylamino-ethyl)-4-(bismethanesulfonylamino)-2-methoxy-benzamide | 232 mg, 52.6% | C(C)N(CCNC(C1=C(C=C(C=C1)N(S(=O)(=O)C)S(=O)(=O)C)OC)=O)CC | C16H27N3O6S2
